US09375009B2
To a solution of ethyl({[1-(4-fluorophenyl)ethylidene]amino}oxy)acetate (8.7 g) in a mixture of 50 ml of tetrahydrofuran and 10 ml of water was added, at 20° C., lithium hydroxide monohydrate (2.3 g) and the mixture was stirred at this temperature for 18 hours. Subsequently, the mixture was stirred into ice-cold 10% hydrochloric acid and extracted twice with ethyl acetate (50 ml each time). The combined organic phases were dried over sodium sulphate and concentrated. Purification by column chromatography on silica gel with a solvent gradient from 0:100 methanol/dichloromethane to 60:0 methanol/dichloromethane gave ({[1-(4-fluorophenyl)ethylidene]amino}oxy)acetic acid (2.9 g).

reactant | ethyl({[1-(4-fluorophenyl)ethylidene]amino}oxy)acetate | 8.7 g | C(C)OC(CON=C(C)C1=CC=C(C=C1)F)=O | C12H14FNO3
reactant | lithium hydroxide monohydrate | 2.3 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | ({[1-(4-fluorophenyl)ethylidene]amino}oxy)acetic acid | 2.9 g | FC1=CC=C(C=C1)C(C)=NOCC(=O)O | C10H10FNO3
